US07932282B2
A mixture of 3-methyl-1-[2-(4-morpholinyl)ethyl]-2-oxo-4-imidazolidinecarboxylic acid TFA salt (186 mg, 0.5 mmol), N-ethyl morpholine (0.383 ml, 3 mmol), 1-hydroxybenzotriazole hydrate (92 mg, 0.6 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (115 mg, 0.6 mmol) in dichloromethane (9 ml) was stirred at room temperature for 10 minutes. A solution of {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine (105 mg, 0.5 mmol) in dichloromethane (1 ml) was added and the reaction stirred at room temperature for 18 hours. The mixture was diluted with dichloromethane and was washed with saturated sodium hydrogen carbonate solution. The organic phase was separated, washed with brine, dried and evaporated. The residue was purified by mass-directed automated HPLC. The product from mass-directed automated HPLC was dissolved in methanol (2 ml) and an excess of 1M hydrogen chloride in ether (0.5 ml) was added. The solvent was evaporated, the residue was triturated with ether and the solid collected and dried to give N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-3-methyl-1-[2-(4-morpholinyl)ethyl]-2-oxo-4-imidazolidinecarboxamide hydrochloride (73 mg, 30%). LC/MS [M+H]+=449, retention time=1.80 minutes.

reactant | 3-methyl-1-[2-(4-morpholinyl)ethyl]-2-oxo-4-imidazolidinecarboxylic acid TFA salt | 0.5 mmol, 186 mg | OC(=O)C(F)(F)F.CN1C(N(CC1C(=O)O)CCN1CCOCC1)=O
reactant | N-ethyl morpholine | 3 mmol, 0.383 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-hydroxybenzotriazole hydrate | 0.6 mmol, 92 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.6 mmol, 115 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine | 0.5 mmol, 105 mg | ClC1=C(C=CC=C1C(F)(F)F)CN | C8H7ClF3N
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-3-methyl-1-[2-(4-morpholinyl)ethyl]-2-oxo-4-imidazolidinecarboxamide hydrochloride | 73 mg, 30% | Cl.ClC1=C(C=CC=C1C(F)(F)F)CNC(=O)C1N(C(N(C1)CCN1CCOCC1)=O)C | InChI=1S/C19H24ClF3N4O3.ClH/c1-25-15(12-27(18(25)29)6-5-26-7-9-30-10-8-26)17(28)24-11-13-3-2-4-14(16(13)20)19(21,22)23;/h2-4,15H,5-12H2,1H3,(H,24,28);1H
